US08633173B2
N-Methyl-N-(3-{2-[4-(2-pyrrolidin-1-yl-ethoxy)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-8-yl}-phenyl)-methanesulfonamide was prepared from N-[3-(2-amino-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-phenyl]-N-methyl-methanesulfonamide (75.0 mg, 0.236 mmol) and 1-[2-(4-bromo-phenoxy)-ethyl]-pyrrolidine (71.0 mg, 0.263 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (25.0 mg, 0.0457 mmol) as the ligand in a manner analogous to Example 2d. Product isolated as a tan foam (0.018 g, 15%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.31 (d, J=6.4 Hz, 1H), 8.13 (s, 3H), 7.93 (d, J=7.8 Hz, 1H), 7.60 (d, J=7.4 Hz, 1H), 7.56-7.46 (m, 3H), 7.46 (d, J=8.9 Hz, 1H), 6.98-6.90 (m, 3H), 6.68 (s, 1H), 4.11 (t, J=6.0 Hz, 2H), 3.41 (s, 3H), 2.96-2.88 (m, 5H), 2.64 (br s, 4H), 1.87-1.77 (m, 4H). MS=507 (MH)+.

reactant | N-[3-(2-amino-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-phenyl]-N-methyl-methanesulfonamide | 0.236 mmol, 75.0 mg | NC1=NN2C(C(=CC=C2)C=2C=C(C=CC2)N(S(=O)(=O)C)C)=N1 | C14H15N5O2S
reactant | 1-[2-(4-bromo-phenoxy)-ethyl]-pyrrolidine | 0.263 mmol, 71.0 mg | BrC1=CC=C(OCCN2CCCC2)C=C1 | C12H16BrNO
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0457 mmol, 25.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | N-Methyl-N-(3-{2-[4-(2-pyrrolidin-1-yl-ethoxy)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-8-yl}-phenyl)-methanesulfonamide | CN(S(=O)(=O)C)C1=CC(=CC=C1)C=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)OCCN2CCCC2 | C26H30N6O3S
